US07919770B2
4-(4-Allylhepta-1,6-dien-4-yl)aniline.
Following a literature procedure (Lin, S.-Y.; Hojjat, M; Strekowski, L. Synth. Commun. 1997, 27, 1975-1980) at 80-fold larger scale, a 2 M solution of allyl magnesium chloride in THF (0.400 L, 0.800 mol) was diluted with additional THF (1.00 L) and then treated dropwise with a solution of 4-(trifluoromethyl)aniline (19.9 mL, 0.160 mol) in THF (210 mL) at −50° C. under argon. After complete addition the sides of the reaction flask were rinsed with additional THF (150 mL). The resulting solution was heated at reflux. The reaction was monitored by TLC for the complete consumption of 4-(trifluoromethyl)aniline. After 3.5 h, the mixture was concentrated and then CH2Cl2 was added. The organic solution was washed with water, dried (Na2SO4), and filtered. The filtrate was concentrated and chromatographed [silica, CH2Cl2/hexanes (2:1)], affording a pale yellow solid (31.7 g, 87%): 1H NMR δ 2.36-2.43 (m, 6H), 3.48-3.66 (br, 2H), 4.94-5.06 (m, 6H), 5.50-5.64 (m, 3H), 6.62-6.70 (m, 2H), 7.06-7.12 (m, 2H); 13C NMR δ 42.1, 42.6, 115.0, 117.5, 127.6, 135.0, 135.8, 144.1; FABMS obsd 228.1757, calcd 228.1752 [(M+H)+, M=C16H21N].

reactant | allyl magnesium chloride | C(C=C)[Mg]Cl
reactant | 4-(trifluoromethyl)aniline | 0.160 mol, 19.9 mL | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
solvent | THF | 1.00 L | C1CCOC1 | C4H8O
solvent | THF | 210 mL | C1CCOC1 | C4H8O
solvent | THF | 0.800 mol, 0.400 L | C1CCOC1 | C4H8O
product | 4-(4-Allylhepta-1,6-dien-4-yl)aniline | 31.7 g, 87% | C(C=C)C(CC=C)(CC=C)C1=CC=C(N)C=C1 | C16H21N
